* C:\Users\burak\Desktop\EE 464\MetuInstrumentProject\LTspice\Forward Converter Compensated.asc
V1 N001 0 30
L1 N008 N001 300µ Rser=0.05
L2 0 N002 1875µ Rser=0.06
M§Q1 N008 N012 0 0 BSC320N20NS3
D1 N002 N003 D
D2 0 N003 D
L3 N004 N003 470µ Rser=11.5m
R1 N004 0 4.68
C1 N004 0 100µ Rser=0.05
D3 N005 N001 D
L4 N005 0 300µ Rser=0.05
XU1 N010 N011 N014 N009 N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 N014 0 15
V3 N009 0 -15
XU2 N017 N006 N016 0 N007 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V4 N017 0 3
V5 N016 0 1
R2 N013 N006 10.77k
C2 N007 N013 2n
C3 N007 N006 0.26n
R3 N006 N011 1k
R4 N015 N011 130
C4 N006 N015 22n
XU3 N007 N018 N019 0 N012 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V6 N019 0 15
V7 N018 0 PULSE(0 3 0 5u 5u 0 10u)
R5 N006 0 1.5k
R6 N004 N010 900k
R7 N010 0 450k
.model D D
.lib C:\Users\burak\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\burak\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L4 1
.tran 0.1
.lib UniversalOpamps2.sub
.backanno
.end
