* C:\Users\burak\Desktop\EE 464\MetuInstrumentProject\LTspice\Thermal Circuit.asc
V1 N001 0 30
L1 N006 N001 300µ Rser=0.05
L2 0 N002 1875µ Rser=0.06
M§Q1 P001 P002 P003 P003 BSC320N20NS3
D1 N002 N003 D
D2 0 N003 D
L3 N004 N003 470µ Rser=11.5m
R1 N004 0 4.68
C1 N004 0 100µ Rser=0.05
D3 N005 N001 D
L4 N005 0 300µ Rser=0.05
XU1 N010 N011 N014 N009 N011 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V2 N014 0 15
V3 N009 0 -15
XU2 N018 N007 N017 0 N008 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V4 N018 0 3
V5 N017 0 1
R2 N013 N007 10.77k
C2 N008 N013 2n
C3 N008 N007 0.26n
R3 N007 N011 1k
R4 N016 N011 130
C4 N007 N016 22n
XU3 N008 N019 N020 0 N012 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
V6 N020 0 15
V7 N019 0 PULSE(0 3 0 5u 5u 0 10u)
R5 N007 0 1.5k
R6 N004 N010 900k
R7 N010 0 450k
XU4 N006 N012 N015 P001 P002 P003 Tjunction Tcase BSC600N25NS3 Tambient=30
R8 N015 0 0.01
XU5 Tcase NC_01 NC_02 aluminum Rtheta=4.6 Tambient=30 Area_Contact_mm2=100 Volume_mm3=1000
.model D D
.lib C:\Users\burak\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\burak\Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 L4 1
.tran 0.1
.lib SOAtherm-HeatSink.lib
.lib SOAtherm-NMOS.lib
.lib UniversalOpamps2.sub
.backanno
.end
